US04143055
2,3-dihydro-4-hydroxy-2-methyl-6-benzofurancarboxylic acid
A mixture of 30 grams of 4-allyl-3-hydroxy-5-methoxybenzoic acid, 150 cc of glacial acetic acid and 45 cc of 48%HBr is heated to the reflux temperature for 8 hours. After this time the reaction mixture is concentrated to dryness and the obtained residue, ground with water and filtered is crystallized from ethyl ether-petroleum ether. The product is obtained in a yield of 19.9 grams (71 percent of theoretical) and has a melting point of 181°-184° C.

reactant | 4-allyl-3-hydroxy-5-methoxybenzoic acid | 30 grams | C(C=C)C1=C(C=C(C(=O)O)C=C1OC)O | C11H12O4
reactant | HBr | Br | BrH
solvent | acetic acid | 150 cc | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-4-hydroxy-2-methyl-6-benzofurancarboxylic acid | OC1=CC(=CC2=C1CC(O2)C)C(=O)O | C10H10O4
